US09108983B2
N-[4-[tert-Butyl(dimethyl)silyl]oxyphenyl]-1-tetrahydrofuran-3-yl-pyrazol-4-amine
4-[tert-Butyl(dimethyl)silyl]oxyaniline (0.92 g, 3.48 mmol) and 4-iodo-1-tetrahydrofuran-3-yl-pyrazole (0.78 g, 3.48 mmol) dissolved in anhydrous tetrahydrofuran (20 mL) are stirred for one hour at ambient temperature in the presence of sodium tert-butylate (1.7 mL, 2M solution in THF) and chloro(2-di-tert-butylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl)[2-(2-aminoethyl)phenyl]palladium(II) (84 mg, 0.122 mmol). The reaction mixture is filtered over Celite and then evaporated to dryness. The residue is crystallised from a mixture of heptane/ethyl acetate, filtered and washed with heptane and then purified by chromatography over silica gel using dichloromethane and methanol as eluants to yield the expected product.

reactant | 4-[tert-Butyl(dimethyl)silyl]oxyaniline | 3.48 mmol, 0.92 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(N)C=C1 | C12H21NOSi
reactant | 4-iodo-1-tetrahydrofuran-3-yl-pyrazole | 3.48 mmol, 0.78 g | IC=1C=NN(C1)C1COCC1 | C7H9IN2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-[4-[tert-Butyl(dimethyl)silyl]oxyphenyl]-1-tetrahydrofuran-3-yl-pyrazol-4-amine | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)NC=1C=NN(C1)C1COCC1 | C19H29N3O2Si
